US08242145B2
Step 1: (3-{2-[((1R,2S)-2-Hydroxy-indan-1-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 45, Step 3, using the following starting materials: [3-(2-Formyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester and (1R,2S)-(+)-cis-1-amino-2-indanol.

reactant | [3-(2-Formyl-4-trifluoromethyl-phenoxy)-4-methoxy-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)C=O)=O | C19H17F3O5
reactant | (1R,2S)-(+)-cis-1-amino-2-indanol | C1[C@@H]([C@@H](C2=CC=CC=C21)N)O | C9H11NO
product | (3-{2-[((1R,2S)-2-Hydroxy-indan-1-ylamino)-methyl]-4-trifluoromethyl-phenoxy}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)C(F)(F)F)CN[C@H]1[C@H](CC2=CC=CC=C12)O)=O | C28H28F3NO5
